US04806685
Preparation of (E)-1-[4-(2-azidoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene
9.83 g (22 mmoles) of (E)-1-[4-(2-bromoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene are dissolved in 100 ml of 2-methoxyethanol, a solution of 2.86 g (44 mmoles) of sodium azide in 10 ml of water is added, and the mixture is boiled for one hour. The reaction mixture is processed as described in Example 5, and the product is recrystallized twice from ethanol. 7.40 g (82%) of the aimed compound are obtained; m.p.: 73°-75° C.

reactant | (E)-1-[4-(2-bromoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene | 22 mmoles, 9.83 g | BrCCOC1=CC=C(C=C1)\C(=C(\C(F)(F)F)/C1=CC=CC=C1)\C1=CC=CC=C1 | C23H18BrF3O
reactant | sodium azide | 44 mmoles, 2.86 g | [N-]=[N+]=[N-].[Na+]
solvent | 2-methoxyethanol | 100 ml | COCCO | C3H8O2
solvent | water | 10 ml | O | H2O
product | (E)-1-[4-(2-azidoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene | 7.40 g, 82% | N(=[N+]=[N-])CCOC1=CC=C(C=C1)\C(=C(\C(F)(F)F)/C1=CC=CC=C1)\C1=CC=CC=C1 | C23H18F3N3O
